US07160902B2
a) N-Phenyl-malonamic acid methyl ester
To the ice-cooled solution of aniline (3,72 g, 40 mmol) in methylene chloride (300 mL) containing triethylamine (11.2 mL, 80 mmol) was added dropwise methyl 3-chloro-3-oxopropionate (5.37 mL, 50 mmol). The reaction mixture was then stirred at room temperature for 2 hours and washed with saturated aqueous NaHCO3 (2×150 mL). The organic layer was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography over silica gel (ethyl acetate-hexane, 1:2) to give the title compound (7.2 g, 93.3%). 1H NMR (400 MHz, CDCl3) δ: 9.17 (brs, 1H), 7.53 (d, 2H), 7.32 (t, 2H), 7.10 (t, 1H), 3.80 (s, 2H).

reactant | aniline | 40 mmol, 3,72 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 80 mmol, 11.2 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 3-chloro-3-oxopropionate | 50 mmol, 5.37 mL | ClC(CC(=O)OC)=O | C4H5ClO3
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | N-Phenyl-malonamic acid methyl ester | 7.2 g, 93.3% | COC(CC(=O)NC1=CC=CC=C1)=O | C10H11NO3
